2142-07-13 05:37:00 Physician Resident Progress Note
Chief Complaint:
   24 yr old with SLE ESRD and recurrent admits for HTN urgency presents
   with dyspnea. Of note she has been in ICU twice in past 10 days for HTN
   urgency.
   She was feeling poorly
 tired, SOB, headache - and missed HD today and
   instead came to ED. On arrival she had BP of 260/130. They found
   asymmetric BP in both arms and sent for CTA to rule out disection. CTA
   shows no dissection but persistent SVC thrombus (old) and new bilat
   ground glass parenchymal infiltrates.
   She was given IV labetalol and labetalol drip - hope had been urgent HD
   but pressures to high to get HD. Tx to MICU for further management
   24 Hour Events:
   - fever to 102.7 --> blood, urine, sputum cx sent
   - started on vanc and levofloxacin given fevers and ground glass
   infiltrates on cxr
   - blood pressure elevated to SBP > 180 at times
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Morphine
   Itching;
   Last dose of Antibiotics:
   Vancomycin - [**2142-7-13**] 02:17 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-7-13**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 36.9
C (98.4
   HR: 87 (87 - 114) bpm
   BP: 149/83(99) {124/66(82) - 265/184(193)} mmHg
   RR: 27 (17 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    373 mL
                                                                    231 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    253 mL
                                                                    231 mL
   Blood products:
   Total out:
                                                                  2,620 mL
                                                                      0 mL
   Urine:
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,247 mL
                                                                    231 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Thin, tachypneic with sig increased work of
   breathing
   Eyes / Conjunctiva: enucleated on left
   Head, Ears, Nose, Throat: Normocephalic, more plethoric appearance
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar but faint no
   wheezes, upper airway
   Abdominal: Soft, Tender to mod palp but not localizing
   Extremities: no edema
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, but focused on her work of breathing
   Labs / Radiology
   71
   7.1
   75
   7.6
   19
   5
   56
   109
   138
   21.7
   3.7
        [image002.jpg]
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   1.       SOB
 likely related to HTN urgency/emergency leading to pulm
   edema vs. possible superimposed infection (as seen by fevers and new
   ground glass bilateral pulm infiltrates).  Of note, her oxygen
   requirement has decreased, arguing for the former.  With regard to her
   HTN urgency, she is off the labetalol gtt, started home meds
   (clonidine, nifedipine, hydralazine, aliskiren), and watch MAPs- goal
   is to get her near SBP 160. HD will help with volume overload.
   2.       Fever: pt with fever to 102.7
 blood, urine, sputum cx
   drawn.  Suspect this is not a bacterial infection, but will cont vanc
   and levofloxacin for one day, and ensure cx are neg.
   3.       Cough and Dyspnea: SOB slightly improved with HD.  Notably
   dyspnea has been less of a feature of her recent presentations as
   compared to HA; she also has new effusion.
   4.       Worsening ascites and Pericardial Effusion: serositis related
   to SLE is a possibility, though she has not had an active flare in some
   time.  Will follow complement levels.  Pericardial fluid could be
   uremic, but does appears to have worsened maybe due to chronic vol
   overload, as she is likely underdialyzed due to non compliance. Might
   benefit from para or [**Female First Name (un) **], but at this time, will wait and see if
   these fluid collections resolve with HD.
   5.       Anemia/thrombocytopenia: ddx includes lupus flare (unlikely)
   vs medication induced vs. infection (viral or bacterial).  Of note, she
   required blood on last admit but is already back down to 22 today.
   Unsure of source of blood loss. Perhaps she is missing her epo doses,
   as she has missed HD frequently in the past.  Will look for GI losses
   and even marrow suppression.
   6.       SVC syndrome: chronic; requires anti coagulation but will not
   bridge with heparin given HTN and ICH.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2142-7-12**] 05:00 PM
   20 Gauge - [**2142-7-12**] 05:00 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2142-07-14 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Morphine
   Itching;
   Last dose of Antibiotics:
   Vancomycin - [**2142-7-13**] 02:17 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-7-14**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 102 (95 - 109) bpm
   BP: 165/103(116) {117/55(73) - 174/108(119)} mmHg
   RR: 22 (18 - 31) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    822 mL
                                                                    679 mL
   PO:
             600 mL
   TF:
   IVF:
                                                                    447 mL
                                                                     79 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,400 mL
                                                                      0 mL
   Urine:
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,578 mL
                                                                    679 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   67 K/uL
   7.3 g/dL
   90 mg/dL
   5.2 mg/dL
   24 mEq/L
   4.1 mEq/L
   33 mg/dL
   103 mEq/L
   137 mEq/L
   21.9 %
   2.7 K/uL
        [image002.jpg]
                             [**2142-7-13**]  05:59 AM
   WBC
   2.7
   Hct
   21.9
   Plt
   67
   Cr
   5.2
   Glucose
   90
   Other labs: PT / PTT / INR:16.7/43.0/1.5, Ca++:8.5 mg/dL, Mg++:1.8
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   24F with h/o SLE, ESRD on HD, malignant HTN, h/o SVC syndrome, PRES,
   prior ICH, and recent SBO, p/w dyspnea, and hypertensive urgency.
   # Dyspnea
   - question yesterday was HTN emergency with pulmonary edema vs.
   infection
   - pt was afebrile overnight
   - will f/u CBC when labs done
   - will f/u CXR when done
   - pt is off of labetalol gtt with SBP
s ranging likely related to HTN
   urgency/emergency leading to pulm edema vs. possible superimposed
   infection (as seen by fevers and new ground glass bilateral pulm
   infiltrates).  Of note, her oxygen requirement has decreased, arguing
   for the former.  With regard to her HTN urgency, she is off the
   labetalol gtt, started home meds (clonidine, nifedipine, hydralazine,
   aliskiren), and watch MAPs- goal is to get her near SBP 160. HD will
   help with volume overload.
   1.       Fever: pt with fever to 102.7
 blood, urine, sputum cx
   drawn.  Suspect this is not a bacterial infection, but will cont vanc
   and levofloxacin for one day, and ensure cx are neg.
   2.       Cough and Dyspnea: SOB slightly improved with HD.  Notably
   dyspnea has been less of a feature of her recent presentations as
   compared to HA; she also has new effusion.
   3.       Worsening ascites and Pericardial Effusion: serositis related
   to SLE is a possibility, though she has not had an active flare in some
   time.  Will follow complement levels.  Pericardial fluid could be
   uremic, but does appears to have worsened maybe due to chronic vol
   overload, as she is likely underdialyzed due to non compliance. Might
   benefit from para or [**Female First Name (un) **], but at this time, will wait and see if
   these fluid collections resolve with HD.
   4.       Anemia/thrombocytopenia: ddx includes lupus flare (unlikely)
   vs medication induced vs. infection (viral or bacterial).  Of note, she
   required blood on last admit but is already back down to 22 today.
   Unsure of source of blood loss. Perhaps she is missing her epo doses,
   as she has missed HD frequently in the past.  Will look for GI losses
   and even marrow suppression.
   5.       SVC syndrome: chronic; requires anti coagulation but will not
   bridge with heparin given HTN and ICH.
   # hypertensive urgency - currently with dyspnea, though improved with
   better BP control.  She denies chest pains at this time. BP different
   in each arm, though no e/o dissection on CTA.
   - continue labetalol gtt, with goal SBP 160-180, and wean as able.
   - attempt to continue home CPAP.
   - plan for HD per renal.
   - continue home regimen of oral labetolol, nifedipine, hydralazine,
   aliskerin.
   # cough: chronic cough.  no fevers currently.  chest CT with bilateral
   infiltrate and nodularities noted possibly infectious vs edema.  likely
   edema given hypertensive urgency
   - hold abx for now; if spikes temp, will cover with vanco/zosyn given
   recent hospitalization
   - HD per renal for fluid removal
   - BP control as above
   # chronic abdominal pain - abdominal pain well controlled currently; no
   change. passing stool with chronic diarrhea.
   - continue current outpt pain regimen of po dilaudid, fentanyl patch,
   lidoacine patch, follow BMs closley.
   - follow BM, flatus carefully, given recent SBO.
   - continue neurontin per HD.
   # Ascites: unclear etiology.  Was to get workup with liver as
   outpatient.
   - needs paracentesis to determine SAAG
   - abdominal US previously without thrombosis, given SVC thrombosis
   - coags unremarkable
   # ESRD on HD - HD SaTuTh, missed Tuesday HD session.
   - HD per renal, appreciate recs.
   - continue sevelamer.
   # anemia/pancytopenia - chronic anemia, baseline pancytopenia, likely
   [**2-12**] CKD and SLE, currently above baseline, though has h/o GIB.
   - maintain t&s.
   - guiac all stools.
   - continue EPO at HD as per renal.
   - tx<21
   # h/o gastric ulcer - continue PPI.
   # SLE - continue home regimen of prednisone 4mg po qdaily.
   - recheck C3/C4, [**Doctor First Name 1205**]
   # h/o SVC thrombosis - pt with goal INR [**2-13**], currently subtherapeutic
   - restart warfarin at 3 mg qdaily.
   - heparin gtt for bridge after HD
   # seizure disorder - continue keppra 1000 mg PO 3X/WEEK (TU,TH,SA).
   # depression - continue celexa.
   # FEN:
   - low salt diet.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2142-7-12**] 05:00 PM
   20 Gauge - [**2142-7-12**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2142-07-14 18:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Morphine
   Itching;
   Last dose of Antibiotics:
   Vancomycin - [**2142-7-13**] 02:17 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-7-14**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 102 (95 - 109) bpm
   BP: 165/103(116) {117/55(73) - 174/108(119)} mmHg
   RR: 22 (18 - 31) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    822 mL
                                                                    679 mL
   PO:
             600 mL
   TF:
   IVF:
                                                                    447 mL
                                                                     79 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,400 mL
                                                                      0 mL
   Urine:
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,578 mL
                                                                    679 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ////
   Physical Examination
   General
 Alert and Oriented, No Acute distress
   CV
 RRR, No murmurs, rubs, or gallops
   Resp
 some ronchi noted
   Abdomen
 diffusely tender to palpation, especially in the lower
   quadrants (greatest on the L); abdomen somewhat distended
   Labs / Radiology
   82 K/uL
   8.2 g/dL
   113 mg/dL
   4.6 mg/dL
   24 mEq/L
   4.2 mEq/L
   25 mg/dL
   102 mEq/L
   139 mEq/L
   25.1 %
   3.6 K/uL
        [image002.jpg]
   Vanco: 19.2
   Prelim Blood Cx + for GPC in pairs and clusters
                             [**2142-7-13**]  05:59 AM
   WBC
   2.7
   Hct
   21.9
   Plt
   67
   Cr
   5.2
   Glucose
   90
   Other labs: PT / PTT / INR:19.8/40.4/1.8, Ca++:8.3 mg/dL, Mg++:1.7
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   24F with h/o SLE, ESRD on HD, malignant HTN, h/o SVC syndrome, PRES,
   prior ICH, and recent SBO, p/w dyspnea, and hypertensive urgency.
   # Dyspnea
   - question yesterday was HTN emergency with pulmonary edema vs.
   infection
   - pt was afebrile overnight
   - pt is off of labetalol gtt with SBP
s ranging 120
   - blood cx + for GPC in pairs and clusters
   - d/c
ed vanc and levo early today
 will restart the vanc tomorrow
   based on level
   - pt to be redialyzed today
   - one other issue is the nodules on the pt
s CT
 this likely
   represents some other process that is going on in the background
   # Cough
 chronic cough.  no fevers currently.  chest CT with bilateral
   infiltrate and nodularities noted possibly infectious vs edema
   - HD done yesterday
 will f/u CXR to eval for improvement of fluid
   # Ascites and Pleural and Pericardial Effusions
   - unsure of etiology
 SLE serositis vs. uermia vs. fluid overload
   - will follow-up CXR to see if fluid improved with HD
   - possible paracentesis or thoracentesis
   - will consult rheum
   # Chronic Abdominal Pain
   - continue current outpt pain regimen of po dilaudid, fentanyl patch,
   lidoacine patch
   - will follow BM
s and flatus, given pts h/o SBO recently
   # Anemia/Pancytopenia - chronic anemia, baseline pancytopenia, likely
   [**2-12**] CKD and SLE, currently above baseline, though has h/o GIB.
   - seems that this is worse than pt
s baseline pancytopenia
 ddx
   includes lupus flare, medication rxn
   - pt was to get 1 unit of blood with HD yesterday; also will get Epo
   with dialysis
   - will follow-up Hct when labs done
   - continue to guaiac all stools, as pt did get blood during last admit
   and is already back with decreased Hct
   # ESRD on HD - HD SaTuTh, missed Tuesday HD session.
   - Pt got HD yesterday
   - F/u renal recs
   - continue sevelamer.
   # h/o gastric ulcer - continue PPI.
   # SLE - continue home regimen of prednisone 4mg po qdaily.
   - C3 low; C4 WNL
 essentially unchanged from values in [**5-19**]
   - [**Doctor First Name 1205**] pos
 titer pending
   # h/o SVC thrombosis - pt with goal INR [**2-13**], currently subtherapeutic
   - restart warfarin at 3 mg qdaily.
   # seizure disorder
   - conitnue pt
s home dose of Keppra
   # depression
   - continue celexa.
   # FEN:
   - low salt diet.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2142-7-12**] 05:00 PM
   20 Gauge - [**2142-7-12**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2142-07-15 06:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - was going to get transferred to the floor today, but then increased
   BP and pain in abdomen - given 10 mg labetalol IV and 0.5 mg dilaudid
   IV
   -later in evening - pain still there but better - pt still hypertensive
   and tachy - given another labetalol IV
   - gave another dose of labetalol in the am [**2-12**] still increased BP and
   HR
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Morphine
   Itching;
   Last dose of Antibiotics:
   Vancomycin - [**2142-7-14**] 03:27 PM
   Infusions:
   Other ICU medications:
   Labetalol - [**2142-7-15**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-7-15**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 112 (98 - 131) bpm
   BP: 208/136(155) {133/81(94) - 249/150(171)} mmHg
   RR: 29 (18 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,190 mL
                                                                     44 mL
   PO:
                                                                  1,800 mL
             TF:
   IVF:
                                                                    390 mL
                                                                     44 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                      0 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -10 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General
 Alert, Oriented, Uncomfortable
   CV
 Tachycardia, no murmurs, rubs, or gallops appreciated
   Resp
 crackles on the L
   Abdomen
 distended, TTP (especially in the LLQ)
   Extremities
 no edema noted, radial and DP pulses palpable
   Labs / Radiology
   96 K/uL
   8.1 g/dL
   84 mg/dL
   3.5 mg/dL
   24 mEq/L
   4.2 mEq/L
   16 mg/dL
   101 mEq/L
   136 mEq/L
   24.9 %
   3.2 K/uL
        [image002.jpg]
                             [**2142-7-13**]  05:59 AM
                             [**2142-7-14**]  04:16 AM
                             [**2142-7-15**]  04:42 AM
   WBC
   2.7
   3.6
   3.2
   Hct
   21.9
   25.1
   24.9
   Plt
   67
   82
   96
   Cr
   5.2
   4.6
   3.5
   Glucose
   90
   113
   84
   Other labs: PT / PTT / INR:22.4/103.2/2.1, Ca++:8.4 mg/dL, Mg++:1.5
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   24F with h/o SLE, ESRD on HD, malignant HTN, h/o SVC syndrome, PRES,
   prior ICH, and recent SBO, p/w dyspnea, and hypertensive urgency.
   # Hypertension / Tachycardia
 etiology not clear: could be due to
   pain.  Tachycardia could be due to an underlying infection but would
   expect pt to be hypotensive.   Could also be that pt
   anti-hypertensive regimen is no longer effective.
   - giving pt another 10 mg IV labetalol right now
   - consider increasing pts PO anti-hypertensive regimen
   # Dyspnea
   - question has been HTN emergency with pulmonary edema vs. infection
   - pt was afebrile overnight and patient says that her dyspnea has
   improved
   - blood cx + for GPC in pairs and clusters
 all other cultures still
   pending
   - need to restart vanc today (dosing based on level)
 Need ID approval
   - one other issue is the nodules on the pt
s CT
 this likely
   represents some other process that is going on in the background
   - pt does have crackles on exam this morning
 will order another CXR
   # Cough
 chronic cough.  no fevers currently.  chest CT with bilateral
   infiltrate and nodularities noted possibly infectious vs edema
   - continue to follow CXR for improvements in patient
s fluid status
   - pt reports that her cough has resolved
   # Ascites and Pleural and Pericardial Effusions
   - unsure of etiology
 SLE serositis vs. uermia vs. fluid overload
   - possible paracentesis or thoracentesis
   - will consult rheum
   # Chronic Abdominal Pain
   - continue current outpt pain regimen of po dilaudid, fentanyl patch,
   lidoacine patch
 seems that pt
s abdominal is not as easily controlled
   anymore.  Consider going up on pain meds or prescribe additional pain
   meds.
   - will follow BM
s and flatus, given pts h/o SBO recently
   # Anemia/Pancytopenia - chronic anemia, baseline pancytopenia, likely
   [**2-12**] CKD and SLE, currently above baseline, though has h/o GIB.
   - seems that this is worse than pt
s baseline pancytopenia
 ddx
   includes lupus flare, medication rxn
   - will f/u rheum recs
   - continue to guaiac all stools, as pt did get blood during last admit
   and quickly came back with decreased Hct
   # ESRD on HD - HD SaTuTh, missed Tuesday HD session.
   - F/u renal recs
   - continue sevelamer.
   # h/o gastric ulcer - continue PPI.
   # SLE - continue home regimen of prednisone 4mg po qdaily.
   - C3 low; C4 WNL
 essentially unchanged from values in [**5-19**]
   - [**Doctor First Name 1205**] pos
 titer pending
   # h/o SVC thrombosis - pt with goal INR [**2-13**]
 at goal
   - continue warfarin at 3 mg qdaily.
   # seizure disorder
   - conitnue pt
s home dose of Keppra
   # depression
   - continue celexa.
   # FEN:
   - low salt diet.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2142-7-12**] 05:00 PM
   22 Gauge - [**2142-7-14**] 12:43 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor